US04041076
rac. N-(4-Acetoxy-alpha-methylphenethyl)acetamide
In a 1-l. flask, flushed with nitrogen and provided with a stirrer, thermometer, two dropping funnels, and a nitrogen inlet tube was placed a solution of 46.4 g. (0.2 moles) of rac. 4-hydroxy-alpha-methylphenethylamine hydrobromide in 100 ml. of water. The flask was cooled in an ice bath, and when the temperature reached 5° C., 40 ml. of acetic anhydride (0.395 moles) and 440 ml. of 2N NaOH were added simultaneously from the two dropping funnels at approximately equivalent rates, maintaining the temperature below 5° C. An oil gradually separated during the addition, and the mixture was stirred for another 4 hours at 5° C., then allowed to come to room temperature overnight. The oil that had solidified to a mass of crystals was recovered by filtration. After washing with water the solid was dried in vacuo over KOH and CaCl2. Yield, 32 g. of mp. 92°-93.5°. An analytical sample was obtained by recrystallization from ethyl acetate-- 30°-60° C. petroleum ether; mp. 97.5° - 99° C.

reactant | rac. 4-hydroxy-alpha-methylphenethylamine hydrobromide | 0.2 moles | Br.OC1=CC=C(CC(C)N)C=C1
reactant | water | O | H2O
reactant | acetic anhydride | 0.395 moles | C(C)(=O)OC(C)=O | C4H6O3
reactant | NaOH | 2N | [OH-].[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | rac. N-(4-Acetoxy-alpha-methylphenethyl)acetamide | C(C)(=O)OC1=CC=C(CC(C)NC(C)=O)C=C1 | C13H17NO3
